US05188947
Media containing 10 g/dl of glucose, 7 g/dl of (NH4)2SO4, 0.15 g/dl of KH2PO4, 0.04 g/dl of MgSO4.7H2O, 1 mg/dl of FeSO4.7H2O, 1 mg/dl of MnSO4.4H2O, 100 μg/1 of thiamine hydrochloride, 100 μg/1 of biotin, 60 mg of soybean protein acid hydrolysate (calculated as total nitrogen) and 15 mg/dl of L-arginine and 5 g/dl of calcium carbonate (independently sterilized) was adjusted to pH 7.2 and 25 ml of the media was charged into a 500 ml flask equipped with a shoulder followed by sterilization with heating. One platinum loop of the strain shown in Table 2 was inoculated on the medium and shaken for 4 days while keeping at 31.5° C. L-Ornithine was produced and accumulated in the culture solution of each strain in the amount shown in Table 2.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | thiamine hydrochloride | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
catalyst | platinum | [Pt] | Pt
product | L-Ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
